// =============================================================================
// FILE: 02_Mixer.scs
// TITLE: 2.4 GHz Double-Balanced Gilbert Cell Mixer
// PROCESS: Generic 180nm CMOS 
// AUTHOR: RF RX Front-End Project
//
// TARGET SPECS:
//   Conversion Gain (CG)  > 6 dB
//   DSB Noise Figure      < 12 dB
//   IIP3                  > +5 dBm (referred to RF input)
//   LO-RF Isolation       > 30 dB
//   IF Output Frequency   = 200 MHz (RF=2.4GHz, LO=2.2GHz)
//   PDC                   < 15 mW at VDD=1.8V
//
// TOPOLOGY (Double-Balanced Gilbert Cell):
// SIGNAL FLOW:
//   RF input (diff) → M1,M2 converts V to I (Gm stage)
//   LO switching quad M3-M6 commutates RF current at LO frequency
//   IF output = RF current × LO square wave → mixing product at fRF-fLO
// =============================================================================

// ---- Model include----
// include "/opt/pdk/tsmc180nm/models/spectre/tt.scs" section=tt
// ----------------------------------------------------

// ============================================================
// GLOBAL PARAMETERS
// ============================================================
parameters
+ VDD     = 1.8        // Supply voltage (V)
+ fRF     = 2.4G       // RF input frequency (Hz)
+ fLO     = 2.2G       // LO frequency (Hz); IF = fRF - fLO = 200 MHz
+ fIF     = 200M       // IF output frequency
+ ISS_val = 4m         // Tail current (total); each M1/M2 carries ISS/2 = 2mA
+ RL_val  = 300        // Load resistance (Ω); higher RL → higher CG but lower bandwidth
+ W_rf    = 120u       // RF pair width (M1,M2); nf=24 × 5μm
+ W_lo    = 80u        // LO quad width (M3-M6); smaller for faster switching
+ W_tail  = 40u        // Tail current source width
+ L_mos   = 180n       // Channel length
+ NF_rf   = 24         // Fingers for RF pair
+ NF_lo   = 16         // Fingers for LO quad
+ Vbias_lo = 0.65      // LO quad bias (set M3-M6 at edge of saturation for fast switching)
+ Vbias_cs = 0.5       // Cascode/tail current source gate voltage
+ CLO_bp  = 10p        // LO bypass capacitor
+ Cbp     = 10p        // General bypass capacitor
+ LO_amp  = 400m       // LO drive amplitude (Vpeak, differential = 800mVpp)
//   LO swing should be large enough to fully switch quad but not overdrive

// ============================================================
// SUBCIRCUIT DEFINITION
// Ports:
//   RFp, RFm  — Differential RF input (from LNA, 200Ω diff impedance typical)
//   LOp, LOm  — Differential LO input (from PLL/LO buffer)
//   IFp, IFm  — Differential IF output at 200 MHz → to IF filter
//   VDD, GND  — Supply and ground
// ============================================================
subckt GilbertMixer (RFp RFm LOp LOm IFp IFm VDD GND)

  // ---- Load resistors (IF output) ----
  // Higher RL → higher CG. RL·CL sets IF bandwidth.
  // CL ≈ Cgs of next stage (IF filter input) ≈ 100fF → BW = 1/(2π·RL·CL)
  RL_p  (VDD  IFp)   resistor  r=RL_val
  RL_m  (VDD  IFm)   resistor  r=RL_val

  // ---- LO Switching Quad (M3, M4, M5, M6) ----
  // M3, M4 are driven by LOp; M5, M6 by LOm
  // When LOp > LOm: M3,M6 ON, M4,M5 OFF → positive half cycle
  // When LOm > LOp: M4,M5 ON, M3,M6 OFF → negative half cycle
  M3  (IFp  LOp  net_drain_m1  GND)  nmos  w=W_lo  l=L_mos  nf=NF_lo
  M4  (IFm  LOm  net_drain_m1  GND)  nmos  w=W_lo  l=L_mos  nf=NF_lo
  M5  (IFm  LOp  net_drain_m2  GND)  nmos  w=W_lo  l=L_mos  nf=NF_lo
  M6  (IFp  LOm  net_drain_m2  GND)  nmos  w=W_lo  l=L_mos  nf=NF_lo

  // ---- RF Transconductance Pair (M1, M2) ----
  // Convert differential RF voltage to differential current
  // Biased at ISS/2 each; Gm = gm1 = √(2·kn·W/L·ISS/2)
  M1  (net_drain_m1  RFp  net_tail  GND)  nmos  w=W_rf  l=L_mos  nf=NF_rf
  M2  (net_drain_m2  RFm  net_tail  GND)  nmos  w=W_rf  l=L_mos  nf=NF_rf

  // ---- Tail Current Source ----
  // NMOS current mirror; W_tail sets ISS
  // Alternatively use ideal current source for initial simulation:
  // ISS (net_tail GND) isource type=dc dc=ISS_val
  Mtail  (net_tail  net_tail_bias  GND  GND)  nmos  w=W_tail  l=L_mos  nf=8
  // Tail bias — connect to current mirror reference or voltage source
  Vtail_bias  (net_tail_bias  GND)  vsource  type=dc  dc=Vbias_cs

  // ---- Ideal tail current (use for initial convergence, then replace with Mtail) ----
  // ISS_ideal (net_tail GND) isource type=dc dc=ISS_val

  // ---- LO port bypass capacitors ----
  CLO_p  (LOp  GND)  capacitor  c=CLO_bp
  CLO_m  (LOm  GND)  capacitor  c=CLO_bp

  // ---- VDD bypass ----
  Cbp_vdd  (VDD  GND)  capacitor  c=Cbp

ends GilbertMixer

// ============================================================
// TEST BENCH
// ============================================================

// Power supply
Vsupply  (VDD GND)  vsource  type=dc  dc=VDD

// ---- RF Input Source (single-ended → differential via ideal balun) ----
// For small-signal S-param sims use port element
// For PSS/IIP3 use sine source
Vrf_p  (RFp GND)  vsource  type=sine  freq=fRF  amp=1m   // -47dBm small signal
Vrf_m  (RFm GND)  vsource  type=sine  freq=fRF  amp=-1m  // differential (180° phase)
// Note: for S-param simulation, replace with Port elements

// ---- LO Source (differential, large drive) ----
VLO_p  (LOp GND)  vsource  type=sine  freq=fLO  amp=LO_amp
VLO_m  (LOm GND)  vsource  type=sine  freq=fLO  amp=-LO_amp

// ---- IF Load (represents IF filter input impedance) ----
Rload_p  (IFp GND)  resistor  r=1k
Rload_m  (IFm GND)  resistor  r=1k

// Instantiate mixer
XMIX (RFp RFm LOp LOm IFp IFm VDD GND) GilbertMixer

// ============================================================
// SIMULATION 1: DC Operating Point
// Verify all transistors in saturation:
//   VGS_M1,M2 > Vth (≈0.5V), ID ≈ ISS/2 ≈ 2mA each
//   VGS_M3-M6 at switching threshold
//   VDS_all > VGS - Vth (in saturation)
// Check total current from VDD ≈ 6-8mA (PDC < 15mW)
// ============================================================
DC_OP dc

// ============================================================
// SIMULATION 2: Conversion Gain (PSS Analysis)
// PSS finds the periodic steady state driven by LO
// Then small-signal RF analysis gives conversion gain
//
// VIRTUOSO ADE PSS SETUP:
//   Fundamental frequency: fLO = 2.2 GHz (or beat freq if two-tone)
//   Number of harmonics: 10
//   tstab: 10n (allow LO to stabilize)
//   Accuracy: moderate (balanced speed/accuracy)
//
// After PSS, run PAC (Periodic AC):
//   Sweep: 100M to 300M (IF band around 200MHz)
//   Input port: RF source
//   Output: IFp-IFm differential
//   Read CG at 200 MHz → should be > 6 dB
// ============================================================
// PSS_conversion pss fund=fLO tstab=10n harms=10 errpreset=moderate

// ============================================================
// SIMULATION 3: DSB Noise Figure (Pnoise after PSS)
// Run PSS first (LO-driven), then Pnoise
// DSB NF = 10·log10(total output noise / output noise from RF input only)
// At 200 MHz IF: NF_DSB < 12 dB
//
// VIRTUOSO PNOISE SETUP (after PSS):
//   Output: IFp (or IFp-IFm differential)
//   Input reference: RF source port
//   Sweep: 10M to 300M
//   Read NF at 200 MHz
// ============================================================

// ============================================================
// SIMULATION 4: IIP3 (Two-Tone PSS + PAC)
// Two RF tones: f1 = 2.400 GHz, f2 = 2.401 GHz
// IM3 at IF: 2(f1-fLO)-(f2-fLO) = 2×200M - 201M = 199 MHz
//            2(f2-fLO)-(f1-fLO) = 2×201M - 200M = 202 MHz
//
// IIP3 (input-referred) = Pin_RF + (CG - IM3_gain) / 2
// Expected: IIP3 > +5 dBm
//
// TWO-TONE SETUP:
//   Replace Vrf_p/m with two-tone sources
//   Vrf_tone1: freq=2.400G, amp=sweep (-40 to -10 dBm)
//   Vrf_tone2: freq=2.401G, amp= same
//   PSS: fund = GCD(2.4G, 2.401G, 2.2G) = 1MHz, harms=5000 (careful — slow)
//   Alternative: use Shooting PSS with auto beat-freq detection
// ============================================================
// For IIP3, replace sources above:
// Vrf_p_t1 (RFp GND) vsource type=sine freq=2.4G amp=3.16m   // -40 dBm
// Vrf_p_t2 (RFp GND) ... (use PSS multi-tone in ADE GUI)

// ============================================================
// SIMULATION 5: Port Isolation (S-parameter)
// Replace RF/LO sources with port elements for SP analysis
// LO-RF isolation > 30 dB (S21 from LO port to RF port)
// LO-IF isolation > 20 dB
// ============================================================
// Port_RF (RFp RFm) port r=100 num=1  (differential)
// Port_LO (LOp LOm) port r=50  num=2  (differential)
// Port_IF (IFp IFm) port r=1k  num=3  (differential)
// Sparam sp start=100M stop=3G step=10M ports=[Port_RF Port_LO Port_IF]

// ============================================================
// Save nodes for debugging
// ============================================================
save VDD RFp RFm LOp LOm IFp IFm net_drain_m1 net_drain_m2 net_tail

